US08530491B2
c) 2,4-diamino-6-ethyl-5-(3-(7-fluoro-2-methylquinolin-4-yloxy)propoxy)pyrimidine
A mixture of 2,4-diamino-6-ethyl-5-hydroxypyrimidine (0.5395 g, 3.5 mmol) and lithium hydroxide monohydrate (0.294 g, 7.0 mmol) in DMF (10 mL) was stirred at 25° C. for 1 hour after that 3-(7-fluoro-2-methylquinolin-4-yloxy)propyl bromide (1.043 g, 3.5 mmol) was added to the reaction mixture and the reaction mixture was left to stir at 25° C. overnight. Two thirds of the DMF was evaporated under vacuum and reaction mixture was poured in water, solid was separated by filtration and dried in oven at 80° C. The crude product was purified by column chromatography on silica gel (4% MeOH: 96% CH2Cl2 as eluent). The product was obtained as white crystalline solid (0.6629 g, 51%). 1H NMR (400 MHz, DMSO-d6): 0.89 (3H, t, J=7.5 Hz), 2.28 (4H, m), 2.60 (3H, s), 3.85 (2H, t, J=5.9 Hz), 4.42 (2H, t, J=5.9 Hz), 5.57 (2H, s), 6.15 (2H, s), 6.99 (1H, s), 7.39 (1H, dt, J=8.8, 2.5 Hz), 7.57 (1H, dd, J=10.8, 2.5 Hz), 8.15 (1H, dd, J=9.1, 6.4 Hz).

reactant | 2,4-diamino-6-ethyl-5-hydroxypyrimidine | 3.5 mmol, 0.5395 g | NC1=NC(=C(C(=N1)N)O)CC | C6H10N4O
reactant | lithium hydroxide monohydrate | 7.0 mmol, 0.294 g | O.[OH-].[Li+]
reactant | 3-(7-fluoro-2-methylquinolin-4-yloxy)propyl bromide | 3.5 mmol, 1.043 g | FC1=CC=C2C(=CC(=NC2=C1)C)OCCCBr | C13H13BrFNO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2,4-diamino-6-ethyl-5-(3-(7-fluoro-2-methylquinolin-4-yloxy)propoxy)pyrimidine | 0.6629 g, 51% | NC1=NC(=C(C(=N1)N)OCCCOC1=CC(=NC2=CC(=CC=C12)F)C)CC | C19H22FN5O2
